US05451600
A solution of 1,2,3,4-tetrahydro-6-(phenylmethoxy)-9H-dibenzo[b,d]pyrrole (2.77 g) in dimethylformamide (20 mL) was stirred under argon at room temperature and treated with a 55% oil dispersion of sodium hydride in mineral oil (0.48 g). After stirring for ten minutes, a solution of 4-fluorobenzyl chloride (1.73 g) in dimethylformamide (5 mL) was added and the mixture was stirred for an additional 30 minutes. The solvent was removed by evaporation and the residue was mixed with water and extracted with dichloromethane. The organic phase was dried over sodium sulfate, concentrated and the residue was purified by HPLC chromatography (eluting system: dichloromethane-hexane 1:2) and crystallization from ether-hexane to produce 2.9 g (75%) of 1,2,3,4-tetrahydro-6-(phenylmethoxy)-9-[(4-fluorophenyl)methyl]-9H-dibenzo[b,d]pyrrole, mp 134°-135° C.

reactant | 1,2,3,4-tetrahydro-6-(phenylmethoxy)-9H-dibenzo[b,d]pyrrole | 2.77 g | C1(=CC=CC=C1)COC=1C=CCC2=C3C(=NC21)CCCC3 | C19H19NO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-fluorobenzyl chloride | 1.73 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1,2,3,4-tetrahydro-6-(phenylmethoxy)-9-[(4-fluorophenyl)methyl]-9H-dibenzo[b,d]pyrrole | 2.9 g, 75% | C1(=CC=CC=C1)COC=1C=CC(C2=C3C(=NC21)CCCC3)CC3=CC=C(C=C3)F | C26H24FNO
